US06093710
To a mixture of 4-(N-butylcarbamoyl)methylidene-4,5,6,7-tetrahydrobenzo[b]thiophene (0.49 g) and THF (8 ml) was dropwise added 1.64 M n-butyl lithium (n-BuLi) in n-hexane (2.88 ml) at -70~-60° C. under nitrogen atmosphere and the mixture was stirred under the same condition for 2.5 hours. The reaction mixture was poured into a mixture of dry ice and diethyl ether (Et2O). To the mixture were added Et2O and water. The separated aqueous layer was washed with Et2O, and acidified by 6 N hydrochloric acid (HCl) and was extracted with AcOEt. The organic layer was washed with water and brine, and dried over MgSO4, and evaporated in vacuo to give 4-(N-butylcarbamoyl)methylidene-4,5,6,7-tetrahydrobenzo[b]-thiophene-2-carboxylic acid (0.38 g).

reactant | 4-(N-butylcarbamoyl)methylidene-4,5,6,7-tetrahydrobenzo[b]thiophene | 0.49 g | C(CCC)NC(=O)C=C1CCCC=2SC=CC21 | C14H19NOS
reactant | THF | 8 ml | C1CCOC1 | C4H8O
reactant | n-butyl lithium | 1.64 M | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | n-hexane | 2.88 ml | CCCCCC | C6H14
solvent | water | O | H2O
solvent | Et2O | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(N-butylcarbamoyl)methylidene-4,5,6,7-tetrahydrobenzo[b]-thiophene-2-carboxylic acid | 0.38 g | C(CCC)NC(=O)C=C1CCCC=2SC(=CC21)C(=O)O | C15H19NO3S
